US08304419B2
To a solution of ({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine (300 mg, 0.822 mmol) and tetrakis(triphenylphosphine)palladium(0) (950 mg, 0.822 mmol) in THF (4 ml) was added n-butyl zinc bromide (0.5 M solution in THF) (1.644 ml, 0.822 mmol) and the reaction mixture was heated at 60° C. for one hour. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give ({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine (210 mg, 0.614 mmol, 75% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.43 (s, 2H), 6.97 (s, 1H), 6.68 (s, 1H), 6.64 (s, 1H), 3.71 (s, 2H), 2.50 (t, 2H), 1.88 (br. s., 2H), 1.45 (quin, 2H), 1.14-1.29 (m, 2H), 0.82 (t, 3H).

reactant | ({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine | 0.822 mmol, 300 mg | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CN)F | C13H9BrCl2FNO
reactant | n-butyl zinc bromide | 0.822 mmol, 0.5 M, 1.644 ml | [Br-].C(CCC)[Zn+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.822 mmol, 950 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine | 0.614 mmol, 210 mg, 75% yield | C(CCC)C=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CN)F | C17H18Cl2FNO
